US05446065
b) 4-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenylacetamide
from 4-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenylacetic acid, SOCl2 and ammonia.

reactant | 4-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenylacetic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CC(=O)O | C16H16ClNO4S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
product | 4-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenylacetamide | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CC(=O)N | C16H17ClN2O3S
